US05998432
Step D: 2-(6-Aminopyridin-3-yl)-2-methylpropanoic acid hydrochloride
A stirred mixture of ethyl 2-[6-(2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-3-yl)-pyridin-3-yl]-2-methylpropanoate (13.3 g, 36.1 mmol) in concentrated HCl (50 mL) was heated at 100° C. overnight. After cooling to ambient temperature, the reaction mixture was concentrated in vacuo and the residue washed exhaustively with chloroform to give the title compound as a colourless solid (6.90 g, 88%).

reactant | ethyl 2-[6-(2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-3-yl)-pyridin-3-yl]-2-methylpropanoate | 36.1 mmol, 13.3 g | CC1(OC2=C(C(N1C1=CC=C(C=N1)C(C(=O)OCC)(C)C)=O)C=CC=C2)C | C21H24N2O4
reactant | HCl | 50 mL | Cl | ClH
product | 2-(6-Aminopyridin-3-yl)-2-methylpropanoic acid hydrochloride | 6.90 g, 88% | Cl.NC1=CC=C(C=N1)C(C(=O)O)(C)C | InChI=1S/C9H12N2O2.ClH/c1-9(2,8(12)13)6-3-4-7(10)11-5-6;/h3-5H,1-2H3,(H2,10,11)(H,12,13);1H
